US05763523
Preparation of Acrylamide/Acryloxyethyltrimethyl Ammonium Chloride Inverse Emulsion Polymers
General polymerization procedure. AMD, acryloxyethyltrimethylammonium chloride, ammonium sulfate, glutaric acid solution, ethylenediaminetetraacetic acid tetra sodium salt solution, isopropanol, tert-butyl hydroperoxide solution, and Dl water are combined and the pH adjusted to 3.5 with sulfuric acid. Sorbitan monooleate is combined with low odor paraffin oil . The aqueous solution is slowly added to the oil solution and the combined mixture homogenized until a viscosity of 1200-1500 cps is obtained. The emulsion is sparged with nitrogen. The emulsion is heated to 40° C. The metabisulfite (MBS) solution is added at a rate to keep the reaction temperature between 40°-45° C. This is maintained until the reaction conversion is at least 99%.

reactant | acryloxyethyltrimethylammonium chloride | [Cl-].C(C=C)(=O)OCC[N+](C)(C)C
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | ethylenediaminetetraacetic acid tetra sodium salt | [Na+].[Na+].[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-]
reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Sorbitan monooleate | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | Acrylamide Acryloxyethyltrimethyl Ammonium Chloride | C(C=C)(=O)N.[Cl-].C(C=C)(=O)OCC[N+](C)(C)C | InChI=1S/C8H16NO2.C3H5NO.ClH/c1-5-8(10)11-7-6-9(2,3)4;1-2-3(4)5;/h5H,1,6-7H2,2-4H3;2H,1H2,(H2,4,5);1H/q+1;;/p-1
